US05051422
4-Phenyl-1-(phenylmethyl)-2-piperazinecarboxamide
To dimethylformamide (300 mL) add N-phenyl-N'-phenylmethyl-1,2-ethanediamine (83 g, 0.37 mol), 2,3-dibromopropanamide (90 g, 0.39 mol) and triethylamine (41 g, 0.40 mol). Heat the resulting mixture at 110° C. and follow the progressof the reaction by thin-layer chromatography. Upon completion of the reaction add 1N NaOH until basic and add ethyl ether. Filter the precipitate that forms and recrystallize from 2-propanol to obtain the title compound.

reactant | N-phenyl-N'-phenylmethyl-1,2-ethanediamine | 0.37 mol, 83 g | C1(=CC=CC=C1)NCCNCC1=CC=CC=C1 | C15H18N2
reactant | 2,3-dibromopropanamide | 0.39 mol, 90 g | BrC(C(=O)N)CBr | C3H5Br2NO
reactant | triethylamine | 0.40 mol, 41 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 4-Phenyl-1-(phenylmethyl)-2-piperazinecarboxamide | C1(=CC=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C18H21N3O
